US05541322
A suspension of 17β-Carbomethoxy-6-oxo-3β,5α-dihydroxy-androstane, 8 g, as prepared in example 17, hydroxylamine hydrochloride (12 g) and sodium acetate trihydrate (16 g) in ethanol (100 mL) is heated at reflux for 1 h. The reaction mixture is cooled to ambient temperature and filtered to afford 17β-carbomethoxy-6-oximino-3β,5α-dihydroxyandrostane as a white solid, mp 234°-237° C. dec. Anal. Calcd. for C21H33NO5.H2O: C, 63.34; H, 8.88; N, 3.53. Found: C, 62.91; H, 8.98; N, 3.27.

reactant | 17β-Carbomethoxy-6-oxo-3β,5α-dihydroxy-androstane | C(=O)(OC)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC([C@]3(C[C@H](CC[C@]3(C)[C@H]1CC2)O)O)=O | C21H32O5
reactant | hydroxylamine hydrochloride | 12 g | Cl.NO
reactant | sodium acetate trihydrate | 16 g | O.O.O.C(C)(=O)[O-].[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 17β-carbomethoxy-6-oximino-3β,5α-dihydroxyandrostane | C(=O)(OC)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC([C@]3(C[C@H](CC[C@]3(C)[C@H]1CC2)O)O)=NO | C21H33NO5
